US06538007B1
To a solution of N-[(R)-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester hydrochloride (231 mg), 3-(4-pyridyl)-2-propenoic acid (82 mg) and 1-hydroxybenzotriazole (81 mg) in dimethylformamide (2 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.11 ml) at 0° C. The mixture was stirred for 2 hours at room temperature, then poured into ice water-ethyl acetate. The separated organic layer was washed with water, aqueous saturated NaHCO3, brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with CHCl3—MeOH (96:4) to give N-[(R)-1-[3-(4-pyridyl)-2-propenoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester (263 mg) as a colorless oil.

reactant | N-[(R)-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester hydrochloride | 231 mg | Cl.C(C1=CC=CC=C1)OC([C@H](CNC(=O)[C@H]1CNCCC1)NC(C)=O)=O
reactant | 3-(4-pyridyl)-2-propenoic acid | 82 mg | N1=CC=C(C=C1)C=CC(=O)O | C8H7NO2
reactant | 1-hydroxybenzotriazole | 81 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.11 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[(R)-1-[3-(4-pyridyl)-2-propenoyl]-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine benzyl ester | 263 mg | C(C1=CC=CC=C1)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(C=CC1=CC=NC=C1)=O)NC(C)=O)=O | C26H30N4O5
